US07183276B2
To a mixture of tert-butyl 4-(methylsulfonyl)piperidine-1-carboxylate (1.5 g) and ethyl acetate (10 mL) was added dropwise a 4N hydrochloric acid.ethyl acetate solution (2.5 mL) with stirring under ice-cooling. After stirring overnight at room temperature, the precipitated crystals were collected by filtration and washed with ethyl acetate to give 4-(methylsulfonyl)piperidine hydrochloride as crystals (1.08 g, yield 95%). Recrystallization from ethanol gave colorless prism crystals. melting point: 271–272° C.

reactant | tert-butyl 4-(methylsulfonyl)piperidine-1-carboxylate | 1.5 g | CS(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO4S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(methylsulfonyl)piperidine hydrochloride | 1.08 g, yield 95% | Cl.CS(=O)(=O)C1CCNCC1 | InChI=1S/C6H13NO2S.ClH/c1-10(8,9)6-2-4-7-5-3-6;/h6-7H,2-5H2,1H3;1H
